US04125518
Preparation of 3,3-Dimethyl-8-Nonyl-1-Oxa-4-Azaspiro[4.5]Decane
The procedure of Example 1 was followed utilizing 1,1-dimethylethanolamine (2.7 grams; 0.03 mole) and 4-n-nonylcyclohexanone (6.73 grams; 0.03 mole) in 100 mls of toluene. After removing the toluene, the residue was distilled to obtain 4.3 grams (48.5% of theoretical; b.p. 113°-115° C. at 0.01 mm.) of the desired product.

reactant | 1,1-dimethylethanolamine | 0.03 mole, 2.7 grams | CC(C)(CN)O | C4H11NO
reactant | 4-n-nonylcyclohexanone | 0.03 mole, 6.73 grams | C(CCCCCCCC)C1CCC(CC1)=O | C15H28O
reactant | toluene | 100 mls | C1(=CC=CC=C1)C | C7H8
product | 3,3-Dimethyl-8-Nonyl-1-Oxa-4-Azaspiro[4.5]Decane | CC1(COC2(N1)CCC(CC2)CCCCCCCCC)C | C19H37NO
